US08293911B2
Step B: [2,6-Dimethyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-carbamic acid ethyl ester
Bis(dibenzylidineacetone)palladium (17 mg, 0.03 mmol) and (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethylamine (35 mg, 0.09 mmol) were added to dry toluene (5 mL purged with argon) and stirred for 15 minutes under argon. Potassium tert-butoxide (166 mg, 1.48 mmol), 6-Trifluoromethyl-1,2,3,4-tetrahydro-isoquinoline hydrochloride salt (176 mg, 0.74 mmol) and (4-Bromo-2,6-dimethyl-phenyl)-carbamic acid ethyl ester (200 mg, 0.74 mmol) were then added and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was then cooled to room temperature filtered through silica gel and purified by preparative thin layer chromatography (DCM 100%) to give the desired compound as a solid.

reactant | (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethylamine | 0.09 mmol, 35 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | Potassium tert-butoxide | 1.48 mmol, 166 mg | CC(C)([O-])C.[K+]
reactant | 6-Trifluoromethyl-1,2,3,4-tetrahydro-isoquinoline hydrochloride salt | 0.74 mmol, 176 mg | Cl.FC(C=1C=C2CCNCC2=CC1)(F)F
reactant | (4-Bromo-2,6-dimethyl-phenyl)-carbamic acid ethyl ester | 0.74 mmol, 200 mg | C(C)OC(NC1=C(C=C(C=C1C)Br)C)=O | C11H14BrNO2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | [2,6-Dimethyl-4-(6-trifluoromethyl-3,4-dihydro-1H-isoquinolin-2-yl)-phenyl]-carbamic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1C)N1CC2=CC=C(C=C2CC1)C(F)(F)F)C)=O | C21H23F3N2O2
